US07960377B2
A solution of methyl 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate (500 mg, 1.243 mmol) in 7 M NH3 in MeOH (10 mL) was heated to 60° C. and stirred at that temperature for 72 h. The solvent was removed under reduced pressure to provide 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxamide (481 mg, 1.243 mmol, 100% yield) as a white solid. LCMS (+ESI) m/z=388.1 [M+H]+.

reactant | methyl 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxylate | 1.243 mmol, 500 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)OC)(F)F | C16H13F3N2O5S
reactant | NH3 | 7 M | N | H3N
solvent | MeOH | 10 mL | CO | CH4O
product | 1-(4-(trifluoromethyl)phenylsulfonyl)-2,3-dihydro-1H-pyrido[2,3-b][1,4]oxazine-7-carboxamide | 1.243 mmol, 481 mg, 100% yield | FC(C1=CC=C(C=C1)S(=O)(=O)N1C2=C(OCC1)N=CC(=C2)C(=O)N)(F)F | C15H12F3N3O4S
